US06090825
A suspension of 1-acetyl-piperidine-4-carboxylic acid (2-oxo-2-phenyl-ethyl)-amide (1.1 g, 3.8 mmol), prepared as in Part A, in conc. H2SO4 (20 mL) is warmed to 65° C. for 1 h. The warm solution is poured into H2O (250 mL), which is neutralized with solid NaHCO3. This solution is extracted with EtOAc (2×200 mL) and the combined organic extracts are dried (MgSO4) and concentrated to afford 1-[4-(5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone as a clear oil.

reactant | 1-acetyl-piperidine-4-carboxylic acid (2-oxo-2-phenyl-ethyl)-amide | 3.8 mmol, 1.1 g | O=C(CNC(=O)C1CCN(CC1)C(C)=O)C1=CC=CC=C1 | C16H20N2O3
reactant | H2O | 250 mL | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | 1-[4-(5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone | C1(=CC=CC=C1)C1=CN=C(O1)C1CCN(CC1)C(C)=O | C16H18N2O2
